US04643849
In 150 ml of N,N-dimethylformamide was suspended 4.8 g of sodium hydride (52% purity), and 20.0 g of 3-piperidinomethylphenol was added in small portions with stirring under ice-cooling. After the addition, the resulting mixture was subjected to reaction at room temperature for 1 hour. To the reaction mixture thus obtained was added 28.0 g of N-(3-bromopropyl)phthalimide, and the resulting mixture was subjected to reaction for 24 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and 300 ml of water and 300 ml of chloroform were added to the resulting residue to dissolve the same. The organic layer was separated and then dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure to obtain 35.0 g (yield 88.5%) of oily N-[3-(3-piperidinomethylphenoxy)propyl]phthalimide.

reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | 3-piperidinomethylphenol | 20.0 g | N1(CCCCC1)CC=1C=C(C=CC1)O | C12H17NO
reactant | N-(3-bromopropyl)phthalimide | 28.0 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-[3-(3-piperidinomethylphenoxy)propyl]phthalimide | 35.0 g, yield 88.5% | N1(CCCCC1)CC=1C=C(OCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C23H26N2O3
